US09255089B2
Into a flask containing 4-(3,5-dimethylisoxazol-4-yl)-6-iodo-N1-methylbenzene-1,2-diamine (299 mg, 0.87 mmol, 1 equiv) is added THF (8 mL, 0.1 M) and CDI (282 mg, 1.74 mmol, 2 equiv). The reaction was heated for 2 hr at 120° C. The reaction was then concentrated in vacuo and the solid triturated with diethyl ether before being air dried to furnish 5-(3,5-dimethylisoxazol-4-yl)-7-iodo-1-methyl-1H-benzo[d]imidazol-2(3H)-one as a light yellow solid.

reactant | 4-(3,5-dimethylisoxazol-4-yl)-6-iodo-N1-methylbenzene-1,2-diamine | 0.87 mmol, 299 mg, 1 equiv | CC1=NOC(=C1C=1C=C(C(=C(C1)I)NC)N)C | C12H14IN3O
reactant | CDI | 1.74 mmol, 282 mg, 2 equiv | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | THF | 0.1 M, 8 mL | C1CCOC1 | C4H8O
product | 5-(3,5-dimethylisoxazol-4-yl)-7-iodo-1-methyl-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C1=CC2=C(N(C(N2)=O)C)C(=C1)I)C | C13H12IN3O2
